US06251926B1
A mixture of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (5.00 g), N-hydroxyphthalimide (2.59 g), potassium carbonate (4.40 g) and N,N-dimethylformamide (50 ml) was stirred at room temperature for 20 hours, and water (500 ml) was added. The resultant crystals were filtered, and washed with water to obtain N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]phthalimide (6.49 g, yield 93%) as colorless crystals. m.p. 155-156° C.

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 5.00 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | N-hydroxyphthalimide | 2.59 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 4.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]phthalimide | 6.49 g, yield 93% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C26H20N2O5
